* C:\Users\axu_n\OneDrive\Escritorio\UTN(2023)\TC2\Tareas Semanales\TS11\EJ2.asc
R1 N001 V1 1
C1 V2 N001 0.4
R2 V2 N002 0.25
C2 N002 0 4
C3 V2 0 2
V1 V1 0 AC 1
.ac dec 100 0.001 100
.backanno
.end
