* C:\Users\axu_n\OneDrive\Escritorio\UTN(2023)\TC2\Tareas Semanales\TS12\EJ2.asc
I1 0 N001 AC 1
C1 0 N001 1.58823
C2 N002 N001 0.09342
RL 0 N002 1
L1 N002 N001 1.1893
C3 N002 0 0.41176
.ac dec 100 0.01 100
* Respuesta en frecuencia
.backanno
.end
