* C:\Users\axu_n\OneDrive\Escritorio\UTN(2023)\TC2\Tareas Semanales\TS6\Circuitos\TRAFO IDEAL\EJ1.asc
V1 V1 0 AC 1 Rser=0.1
R3 V2 0 3
R1 V1 0 1
R2 V2 V1 2
T1 V1 V2 0 0
.ac dec 100 .001 100
* Respuesta en frecuencia
.net V(v2) V1
* Parametros Z
.backanno
.end
