* C:\users\axu_n\onedrive\escritorio\utn(2023)\tc2\tareas semanales\ts6\circuitos\trafo ideal\trafo_ideal_componente.asc

.subckt trafo_ideal_componente p+ s+ p- s-
I1 p- p+ I=i(V2)
V2 s- s+ v(p+) - v(p-)
.ends trafo_ideal_componente

